* sg13cmos5l_ldo_core_cmos5l -- LVS reference netlist, generated by layout/lvs_reference.py
* DO NOT EDIT BY HAND. Regenerate with:
*   python3 layout/lvs_reference.py
* Source: design/sg13cmos5l/netlist/ldo_core_cmos5l.spice (.subckt ldo_core_cmos5l, flattened)
* Plain-element form: `klt lvs` reads its reference with a bare
* NetlistSpiceReader, which would read the schematic's own X cards as
* subcircuit instances rather than devices. See this generator's module
* docstring for all four transformations applied here.
.SUBCKT sg13cmos5l_ldo_core_cmos5l VIN VOUT VSS VREF IBIAS
MMpass VOUT EAOUT VIN VIN pfet L=0.5U W=2800U
* Rtop: rhigh w=1u l=25.43u b=7 (8 stripes) -- deck model 278392.0 ohm, PDK ngspice model 300443.6 ohm
RRtop VOUT FB VSS 278392.0 rhigh
* Rbot: rhigh w=1u l=25.43u b=7 (8 stripes) -- deck model 278392.0 ohm, PDK ngspice model 300443.6 ohm
RRbot FB VSS VSS 278392.0 rhigh
MMb0 IBIAS IBIAS VIN VIN pfet L=2U W=5U
* Mtail: schematic m=3 x w=5u folded into one W=15u device (the layout draws 3 fingers; `klt lvs` combine_devices folds them)
MMtail TAIL IBIAS VIN VIN pfet L=2U W=15U
* Mload2: schematic m=6 x w=5u folded into one W=30u device (the layout draws 6 fingers; `klt lvs` combine_devices folds them)
MMload2 EAOUT IBIAS VIN VIN pfet L=2U W=30U
MMinp G1 FB TAIL TAIL pfet L=1U W=20U
MMinn N1 VREF TAIL TAIL pfet L=1U W=20U
MMn2 G1 N1 VSS VSS nfet L=1U W=5U
MMn1 N1 N1 VSS VSS nfet L=1U W=5U
MMn3 EAOUT G1 VSS VSS nfet L=1U W=20U
XCc EAOUT MZ cap_cmomi PARAMS: W=170 L=30
* Rz: rhigh w=1u l=28.81u b=39 (40 stripes) -- deck model 1576811.2 ohm, PDK ngspice model 1700012.2 ohm
RRz MZ G1 VSS 1576811.2 rhigh
.ENDS sg13cmos5l_ldo_core_cmos5l
